US07514419B2
Compound 74: ethyl [(4-methylphenyl)sulfonyloxymethyl]-methylphosphinate
To the crude ethyl (4-methylphenyl)sulfonyloxymethylphosphinate monochloridate (2.00 g, 6.39 mmol) in dry THF (30.0 mL) at −78° C. was added MeMgBr (2.20 mL, 6.97 mmol, 3.0 M in diethyl ether). The reaction was quenched immediately after the MeMgBr addition with 1 mL of acetic acid. The reaction mixture was diluted with ethyl acetate and H2O and the organic layer was washed twice with saturated aqueous NaHCO3 and once with H2O. The organic layer was concentrated and coevaporated with MeOH. The product was obtained by precipitation from hexanes to afford the title compound as a white solid (1.40 g, 77% over two steps): 1H NMR (200 MHz, DMSO-d6): δ 7.85 (m, 2H), 7.52 (m, 2H), 4.30 (d, J=12.0 Hz, 2H), 3.90 (m, 2H), 2.40 (s, 3H), 1.45 (d, J=21.0 Hz, 3H), 1.15 (m, 3H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-methanol (9:1); Rf=0.27.

reactant | ethyl (4-methylphenyl)sulfonyloxymethylphosphinate | CC1=CC=C(C=C1)S(=O)(=O)OCP(OCC)=O | C10H15O5PS
reactant | MeMgBr | 6.97 mmol, 3.0 M, 2.20 mL | C[Mg+].[Br-]
solvent | THF | 30.0 mL | C1CCOC1 | C4H8O
product | ethyl [(4-methylphenyl)sulfonyloxymethyl]-methylphosphinate | 1.40 g, 77% | CC1=CC=C(C=C1)S(=O)(=O)OCP(OCC)(=O)C | C11H17O5PS
